US05726306
In 100 ml of methanol was dissolved 10 g of 2-amino-5-bromophenyl-2-pyridylketone. To the solution was added 1.7 g of sodium borohydride and stirred for 30 minutes. The solvent methanol was evaporated off under reduced pressure. The residue was treated with an aqueous solution of hydrochloric acid. The decomposed residue was then neutralized with 200 ml of a sodium bicarbonate aqueous solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 2-amino-5-bromo-α-(2-pyridyl)benzyl alcohol (9.0 g) as prisms, m.p. 104°-105° C.

reactant | 2-amino-5-bromophenyl-2-pyridylketone | 10 g | NC1=C(C=C(C=C1)Br)C=1C(=NC=CC1)C(=O)C1=NC=CC=C1C1=C(C=CC(=C1)Br)N | C23H16Br2N4O
reactant | sodium borohydride | 1.7 g | [BH4-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
product | 2-amino-5-bromo-α-(2-pyridyl)benzyl alcohol | 9.0 g | NC1=C(C(C2=NC=CC=C2)O)C=C(C=C1)Br | C12H11BrN2O
